US03957989
2,7-BIS(2-DIETHYLAMINOACETYL)XANTHENE DIHYDROCHLORIDE
To a solution of 200 ml. of diethylamine in 500 ml. of tetrahydrofuran were added 33.5 g (0.10 mole) of 2,7-bis(2-chloroacetyl)xanthene and 2 g of potassium iodide with warming. The reaction mixture was allowed to stand for 7 days then filtered and the filtrate was concentrated. The residual concentrate was dissolved in tetrahydrofuran, filtered, and the filtrate acidified with ethereal HCl to Congo Red. The resulting precipitate was filtered, recrystallized from diethyl ether, ethanol, and butanone and dried in vacuo to give the desired product. M.P. 164°-167°C. (dec.).

reactant | diethylamine | C(C)NCC | C4H11N
reactant | 2,7-bis(2-chloroacetyl)xanthene | 0.10 mole, 33.5 g | ClCC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CCl)=O | C17H12Cl2O3
reactant | potassium iodide | 2 g | [I-].[K+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2,7-BIS(2-DIETHYLAMINOACETYL)XANTHENE DIHYDROCHLORIDE | Cl.Cl.C(C)N(CC(=O)C1=CC=2CC3=CC(=CC=C3OC2C=C1)C(CN(CC)CC)=O)CC | InChI=1S/C25H32N2O3.2ClH/c1-5-26(6-2)16-22(28)18-9-11-24-20(13-18)15-21-14-19(10-12-25(21)30-24)23(29)17-27(7-3)8-4;;/h9-14H,5-8,15-17H2,1-4H3;2*1H
